US04772600
N-[[2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]glycine ethyl ester
A solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (9.50 g, 0.033 mole), 1,1'-carbonyldiimidazole (5.35 g, 0.033 mole) and anhydrous tetrahydrofuran (300 ml) was stirred at room temperature for 2 hrs with a stream of nitrogen bubbling through it. To the resulting suspension was added glycine ethyl ester (8.0 g, 0.078 mole) and the solution stirred over the weekend. The reaction mixture was filtered and the filtrate concentrated in vacuo. The residue was partitioned between ethyl acetate (150 ml) and potassium bicarbonate solution (75 ml). The organic layer was washed with potassium bicarbonate solution (2×50 ml), water (50 ml), brine (25 ml), dried over sodium sulfate, and concentrated in vacuo. The residue (10 g) was recrystallized from tetrahydrofuran-isopropyl ether to give 6.93 g (56%) of an off-white solid, m.p. 144°-145° C.

reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.033 mole, 9.50 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | 1,1'-carbonyldiimidazole | 0.033 mole, 5.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | glycine ethyl ester | 0.078 mole, 8.0 g | C(C)OC(CN)=O | C4H9NO2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-[[2-(3-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]acetyl]glycine ethyl ester | 6.93 g, 56% | C(C)OC(CNC(CN1C(=NC=2C1=NC=CC2)C2=CC(=CC=C2)Cl)=O)=O | C18H17ClN4O3
